US08865744B1
To 90.0 mg (0.27 mmol) of (S)-1-(tetrahydro-pyran-4-yl)-pyrrolidine-2-carboxylic acid [3-(1,1-dimethyl-2-oxo-ethyl)-isoxazol-5-yl]-amide in MeOH (3.00 mL) are added 22.4 mg (0.32 mmol) hydroxylamine hydrochloride and 58.5 μL (0.72 mmol) pyridine. The reaction is stirred at 60° C. for 3 h. The solvent is removed under reduced pressure and the residue is purified by HPLC-MS to afford 79.0 mg of (S)-1-(tetrahydro-pyran-4-yl)-pyrrolidine-2-carboxylic acid [3-(2-hydroxyimino-1,1-dimethyl-ethyl)-isoxazol-5-yl]-amide. Yield: 84%; ESI-MS: 351 [M+H]+; HPLC (Rt): 1.04 min (method E)

reactant | (S)-1-(tetrahydro-pyran-4-yl)-pyrrolidine-2-carboxylic acid [3-(1,1-dimethyl-2-oxo-ethyl)-isoxazol-5-yl]-amide | 0.27 mmol, 90.0 mg | CC(C=O)(C)C1=NOC(=C1)NC(=O)[C@H]1N(CCC1)C1CCOCC1 | C17H25N3O4
reactant | hydroxylamine hydrochloride | 0.32 mmol, 22.4 mg | Cl.NO
reactant | pyridine | 0.72 mmol, 58.5 μL | N1=CC=CC=C1 | C5H5N
solvent | MeOH | 3.00 mL | CO | CH4O
product | (S)-1-(tetrahydro-pyran-4-yl)-pyrrolidine-2-carboxylic acid [3-(2-hydroxyimino-1,1-dimethyl-ethyl)-isoxazol-5-yl]-amide | 79.0 mg, Yield: 84% | ON=CC(C)(C)C1=NOC(=C1)NC(=O)[C@H]1N(CCC1)C1CCOCC1 | C17H26N4O4
